US07642277B2
a) 2,4-Dihydro-4-(1-naphthalenyl)-3H-1,2,4-triazole-3-thione
A solution of 4-(1-naphthalenyl)-3-thiosemicarbazide (4.01 g, 18.4 mmol) and N,N,-dimethylformamide dimethyl acetal (2.50 mL, 18.8 mmol) in 1,4-dioxane (40 mL) was stirred at room temperature for 16 h. The mixture was concentrated under reduced pressure. The residue was taken in hexane and Et2O and the solution was stirred until a suspension was obtained. The suspension was filtered and the solid was triturated with hexane:Et2O (4:1), then was dried under reduced pressure to give the title compound (4.19 g, 90% yield) as a beige solid.

reactant | 4-(1-naphthalenyl)-3-thiosemicarbazide | 18.4 mmol, 4.01 g | C1(=CC=CC2=CC=CC=C12)NC(NN)=S | C11H11N3S
reactant | N,N,-dimethylformamide dimethyl acetal | 18.8 mmol, 2.50 mL | COC(N(C)C)OC | C5H13NO2
solvent | 1,4-dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | 2,4-Dihydro-4-(1-naphthalenyl)-3H-1,2,4-triazole-3-thione | 4.19 g, 90% yield | C1(=CC=CC2=CC=CC=C12)N1C(NN=C1)=S | C12H9N3S
